US07488740B2
4. 7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine
Stir a mixture of 2-chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl) pyridin-2-yl]-[1,8]naphthyridin-4-amine (40 mg), ammonium formate (31 mg), 10% palladium on carbon (10 mg) in methanol (2 mL) at 50° C. for 2 hours. Cool, filter through Celite and evaporate to dryness. Purify by preparative thin layer chromatography, eluting with dichloromethane/methanol/ammonium hydroxide mixture to give the title compound. MS 436 (M+1). 1H NMR δ (CDCl3) 8.99 (1H, s), 8.84 (1H, d), 8.63 (1H, d), 8.61 (1H, s), 8.32 (1H, brs), 8.14 (1H, d), 8.05 (1H, brs), 7.79-7.85 (2H, m), 7.51 (1H, dd), 7.22 (1H,d).

reactant | 2-chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl) pyridin-2-yl]-[1,8]naphthyridin-4-amine | 40 mg | ClC1=NC2=NC(=CC=C2C(=C1)NC1=NC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C20H10ClF6N5
reactant | ammonium formate | 31 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | 7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5
